US06191138B1
1. (+/−)-cis-8,9-dimethoxy-6-[4-(methoxycarbonyl)phenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine
1.8 g of (+/−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methoxycarbonylbenzamide are dissolved in 50 ml of acetonitrile and 1.0 ml of phoshorus oxychloride and stirred at 50° C. for 8 h. The reaction mixture is poured into 100 ml of saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic phase is washed with sodium bicarbonate solution and water, dried with sodium sulfate and concentrated. The residue is recrystallized from ethyl acetate/petroleum ether. This gives 660 mg (38.6% of Th.) of the title compound of m.p.: 121.5-122.5° C.

reactant | (+/−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methoxycarbonylbenzamide | 1.8 g | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)C(=O)OC)=O | C23H27NO5
reactant | oxychloride | 1.0 ml | O(Cl)Cl | Cl2O
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (+/−)-cis-8,9-dimethoxy-6-[4-(methoxycarbonyl)phenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)C(=O)OC | C23H25NO4
